US04036951
One-tenth mol of an alkali metal salt of para-aminosalicylic acid as for example, sodium-p-aminosalicylate, potassium-p-aminosalicylate or lithium-p-aminosalicylate, is dissolved in 300 ml. of alcohol and to this is added exactly one-tenth mol of a menthyl halogen salt as for example, methyl chloride, menthyl bromide or menthyl iodide. The mixture is stirred and 0.5 gms. of freshly precipitated silver hydroxide is added as a catalyst. The mixture is warmed to 50° C. for a period of at least two hours, cooled to room temperature and filtered. The filtrate is set aside to crystallize in an ice-chest and menthyl-para-aminosalicylate is obtained as a white crystalline substance melting at 187° C. to 189° C. The compound is insoluble in water but soluble in alcohol, benzene and chloroform.

reactant | para-aminosalicylic acid | NC=1C=C(C(C(=O)O)=CC1)O | C7H7NO3
reactant | sodium p-aminosalicylate | [Na].NC=1C=C(C(C(=O)[O-])=CC1)O
reactant | potassium p-aminosalicylate | [K].NC=1C=C(C(C(=O)[O-])=CC1)O
reactant | lithium p-aminosalicylate | [Li].NC=1C=C(C(C(=O)[O-])=CC1)O
reactant | methyl chloride | CCl | CH3Cl
reactant | menthyl bromide | C1(CC(C(CC1)C(C)C)Br)C | C10H19Br
reactant | menthyl iodide | C1(CC(C(CC1)C(C)C)I)C | C10H19I
catalyst | silver hydroxide | [OH-].[Ag+]
product | menthyl-para-aminosalicylate | C1(CC(C(CC1)C(C)C)OC(C=1C(O)=CC(=CC1)N)=O)C | C17H25NO3
